US09447114B2
A solution of 1-methyl-5-(3-methylbutanoyl)-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-6-(3-(trifluoromethoxy)phenyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (30 mg, 0.053 mmol) in concentrated HCl (1 mL) and MeOH (5 mL) was stirred at RT for 1 h then concentrated to a residue which was purified by Prep HPLC to give 3-(3-hydroxypropyl)-1-methyl-5-(3-methylbutanoyl)-6-(3-(trifluoromethoxy)phenyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (6 mg, 23.4% yield) as a white solid. 1H NMR (CDCl3) δ: 7.48-7.37 (m, 2H), 7.32 (s, 1H), 7.26-7.23 (m, 1H), 4.18 (t, J=6.1 Hz, 2H), 3.61 (s, 3H), 3.55 (dd, J=11.7, 6.3 Hz, 2H), 3.04 (t, J=7.0 Hz, 1H), 2.54 (d, J=6.6 Hz, 2H), 2.14 (dt, J=13.3, 6.7 Hz, 1H), 1.97-1.85 (m, 2H), 0.84 (d, J=6.7 Hz, 7H). LCMS: MH+ 485 and TR=3.100 min.

reactant | 1-methyl-5-(3-methylbutanoyl)-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-6-(3-(trifluoromethoxy)phenyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.053 mmol, 30 mg | CN1C(N(C(C2=C1SC(=C2C(CC(C)C)=O)C2=CC(=CC=C2)OC(F)(F)F)=O)CCCOC2OCCCC2)=O | C27H31F3N2O6S
solvent | HCl | 1 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(3-hydroxypropyl)-1-methyl-5-(3-methylbutanoyl)-6-(3-(trifluoromethoxy)phenyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 6 mg, 23.4% yield | OCCCN1C(N(C2=C(C1=O)C(=C(S2)C2=CC(=CC=C2)OC(F)(F)F)C(CC(C)C)=O)C)=O | C22H23F3N2O5S
